US04218460
2-ethyl-5-[2-(1-methyl-5-nitroimidazol-2-yl)-vinyl]-1,3,4-thiadiazole
A solution of 15.5 g of 1-methyl-5-nitroimidazole-2carboxaldehyde in 50 ml of acetic acid and 25 ml of acetic anhydride is added at reflux temperature over a period of 10 hours to 12.8 g of 5-ethyl-2-methyl-1,3,4-thiadiazole and 0.5 g of ZnCl2 which have been dissolved in 100 ml of acetic acid and 50 ml of acetic anhydride. The mixture is kept at reflux temperature for a further 20 hours and the solvent is then evaporated. The residue is washed with acetone and passed through a ready-to-use silica gel column (Type A of Messrs. Merck) and eluted with CHCl3 /CH3OH=98 : 2. 5.6 g of the abovementioned reaction product with a melting point of 165° C. is obtained; this corresponds to 21% of the theory.

reactant | 1-methyl-5-nitroimidazole-2carboxaldehyde | 15.5 g | CN1C(=NC=C1[N+](=O)[O-])C=O | C5H5N3O3
reactant | 5-ethyl-2-methyl-1,3,4-thiadiazole | C(C)C1=NN=C(S1)C | C5H8N2S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | ZnCl2 | 0.5 g | [Cl-].[Cl-].[Zn+2]
product | 2-ethyl-5-[2-(1-methyl-5-nitroimidazol-2-yl)-vinyl]-1,3,4-thiadiazole | 5.6 g | C(C)C=1SC(=NN1)C=CC=1N(C(=CN1)[N+](=O)[O-])C | C10H11N5O2S
